US07648997B2
To a solution of 2-[3-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propoxy]-1H-isoindole-1,3(2H)-dione (1.00 g, 2.03 mmol) in chloroform (20 mL) at room temperature and under an atmosphere of nitrogen was added mCPBA (1.00 g, 4.06 mmol). The reaction was stirred for 2 hours, then was cooled to 0° C. Concentrated ammonium hydroxide (1 mL) was added followed by p-toluenesulfonyl chloride (111 mg, 0.58 mmol) in portions. The mixture was stirred for 1.5 hours at 0° C. and then filtered to remove a solid, which was washed with chloroform. The filtrate was washed with brine (2×10 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 0-35% CMA in chloroform) to afford 300 mg of 1-[3-(aminooxy)propyl]-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | 2-[3-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propoxy]-1H-isoindole-1,3(2H)-dione | 2.03 mmol, 1.00 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCON3C(C1=CC=CC=C1C3=O)=O)CCC | C24H21BrN4O3
reactant | mCPBA | 4.06 mmol, 1.00 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 0.58 mmol, 111 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[3-(aminooxy)propyl]-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 300 mg | NOCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)CCC | C16H20BrN5O
